US07868003B2
(S)-1-[2-((R)-6,8-Dichloro-2-cyclopropyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-hydroxypyrrolidine-2,5-dione
Analogously to example 49, ((R)-5-oxo-2-trichloromethyl[1,3]dioxolan-4-yl)acetic acid (94 mg, see Synthesis 2002, 2165), thionyl chloride (2 ml) and 2-((R)-6,8-dichloro-2-cyclopropyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine trifluoroacetic acid salt (200 mg) were reacted. The freeze-drying from water/acetonitrile afforded 31 mg of the desired product.

reactant | ((R)-5-oxo-2-trichloromethyl[1,3]dioxolan-4-yl)acetic acid | 94 mg | O=C1C(O[C@H](O1)C(Cl)(Cl)Cl)CC(=O)O | C6H5Cl3O5
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-((R)-6,8-dichloro-2-cyclopropyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine trifluoroacetic acid salt | 200 mg | FC(C(=O)O)(F)F.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C1CC1)C1=C(C=CC=C1)N
solvent | water acetonitrile | O.C(C)#N
product | (S)-1-[2-((R)-6,8-Dichloro-2-cyclopropyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-hydroxypyrrolidine-2,5-dione | 31 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C1CC1)C1=C(C=CC=C1)N1C([C@H](CC1=O)O)=O | C22H20Cl2N2O3
